US07491716B2
(1H-Indol-7-ylmethyl)propylamine
Add propyl amine (3.66 g, 62.07 mmol) to a solution of indole-7-carboxaldehyde (3.0 g, 20.68 mmol) and acetic acid (2.65 ml, 41.3 mmol) in toluene (100 ml). Heat at reflux constantly removing water with a Dean Stark apparatus. Concentrate the reaction under reduced pressure and re-dissolve in methanol. Gently add sodium borohydride (0.39 g, 10.34 mmol). Stir for 1 hour at room temperature, concentrate, and partition between ethyl acetate and saturated aqueous sodium bicarbonate. Concentrate the organic layers under reduced pressure. Compound carried onto next step without purification.

reactant | propyl amine | 62.07 mmol, 3.66 g | C(CC)N | C3H9N
reactant | indole-7-carboxaldehyde | 20.68 mmol, 3.0 g | N1C=CC2=CC=CC(=C12)C=O | C9H7NO
reactant | acetic acid | 41.3 mmol, 2.65 ml | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 10.34 mmol, 0.39 g | [BH4-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | (1H-Indol-7-ylmethyl)propylamine | N1C=CC2=CC=CC(=C12)CNCCC | C12H16N2
